US08530470B2
TBTU (138 mg, 0.43 mmol) was added to a stirred solution of 8-(1-(3-fluorophenyl)pyrrolidin-2-yl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylic acid (97 mg, 0.21 mmol), DIPEA (0.075 mL, 0.43 mmol) dissolved in DMF (1.5 mL) under nitrogen. The resulting solution was stirred at room temperature for 1.5 h. Morpholine (0.028 mL, 0.32 mmol) was added and the reaction mixture was stirred at room temperature for 1 h. The reaction mixture was purified by preparative HPLC. The fractions were evaporated to dryness, the residue was dissolved in DCM, dried over MgSO4 and evaporated to dryness to afford 8-(1-(3-fluorophenyl)pyrrolidin-2-yl)-2-((R)-2-methylmorpholino)-6-(morpholine-4-carbonyl)-4H-chromen-4-one (63 mg, 56%) as a yellow foam.

reactant | TBTU | 0.43 mmol, 138 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 8-(1-(3-fluorophenyl)pyrrolidin-2-yl)-2-((R)-2-methylmorpholino)-4-oxo-4H-chromene-6-carboxylic acid | 0.21 mmol, 97 mg | FC=1C=C(C=CC1)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)O | C25H25FN2O5
reactant | DIPEA | 0.43 mmol, 0.075 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Morpholine | 0.32 mmol, 0.028 mL | N1CCOCC1 | C4H9NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 8-(1-(3-fluorophenyl)pyrrolidin-2-yl)-2-((R)-2-methylmorpholino)-6-(morpholine-4-carbonyl)-4H-chromen-4-one | 63 mg, 56% | FC=1C=C(C=CC1)N1C(CCC1)C=1C=C(C=C2C(C=C(OC12)N1C[C@H](OCC1)C)=O)C(=O)N1CCOCC1 | C29H32FN3O5
